US05077282
(Z)-2-[(Diethoxyphosphinyl)amino]-α-(methoxyimino)-4-thiazoleacetic Acid
A solution of 8.4 g (0.023 mol) (Z)-2-[(diethoxyphosphinyl)amino]-α-(methoxyimino)-4-thiazoleacetic acid, ethyl ester, 9.25 ml (0.046 mol) 5N sodium hydroxide, 30 ml water, and 50 ml dioxane was stirred at room temperature for 18 hours. The solvent was evaporated, 30 ml of 50% saturated sodium chloride was added, the pH was adjusted to 4.5, and 3×30 ml ethyl acetate was added. The aqueous layer was then adjusted to pH 2.5, and extraction with ethyl acetate followed by evaporation yielded 4.6 g of a yellow oil; MS ((+) FAB), 338 (M+H); NMR (300 MHz, DCCl3) δ 1.36 (2t, 6, OCH2CH3), 4.01 (s, 3, OCH3), 4.18 (m, 4, OCH2), 7.10 (s, 1, thiazole H).

reactant | (Z)-2-[(diethoxyphosphinyl)amino]-α-(methoxyimino)-4-thiazoleacetic acid, ethyl ester | 0.023 mol, 8.4 g | C(C)OP(=O)(OCC)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC | C12H20N3O6PS
reactant | sodium hydroxide | 0.046 mol, 5N, 9.25 ml | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (Z)-2-[(Diethoxyphosphinyl)amino]-α-(methoxyimino)-4-thiazoleacetic Acid | 4.6 g | C(C)OP(=O)(OCC)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C10H16N3O6PS
